US07049445B2
(Step A) Synthesis of 2-tert-butyl-6-methoxy-3-methyl-1H-indole
2-Bromo-5-methoxyaniline (1.01 g; synthesized according to the process reported by J. H. Tidwell et al., J. Am. Chem. Soc., vol. 116, pp. 11797-11810 (1994)), 2,2-dimethyl-3-pentyne (480 mg; mfd. by Chemsampco), palladium acetate (28.1 mg), tetra-n-butylammonium chloride (1.39 g; mfd. by TOKYO KASEI), potassium carbonate (3.45 g) and triphenylphosphine (65.6 mg) were dissolved in N,N-dimethylacetamide (50 mL). After stirring at 100° C. for 20 hours, the reaction mixture was diluted with water and extracted with ether. The organic layer was washed with a saturated aqueous ammonium chloride solution and water, and then dried. The solvent was distilled off under reduced pressure. The residue was purified twice by silica gel column chromatography (5:1 hexane/ethyl acetate) to yield the title compound (202 mg).

reactant | 2-Bromo-5-methoxyaniline | BrC1=C(N)C=C(C=C1)OC | C7H8BrNO
reactant | 2,2-dimethyl-3-pentyne | 480 mg | CC(C)(C#CC)C | C7H12
reactant | potassium carbonate | 3.45 g | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 65.6 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
catalyst | tetra-n-butylammonium chloride | 1.39 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | N,N-dimethylacetamide | 50 mL | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
catalyst | palladium acetate | 28.1 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-tert-butyl-6-methoxy-3-methyl-1H-indole | 202 mg | C(C)(C)(C)C=1NC2=CC(=CC=C2C1C)OC | C14H19NO
